US03974144
Following the procedure as in Example 8, 2-(p-tolyl)naphtho[1,2-b]furan was interacted with an equimolar quantity of 3-anilinophthalide to produce 2-[4-(2-carboxystyryl)phenyl]naphtho[1,2-b]furan which, when crystallized from chlorobenzene, melted at 210°-211°C. The measured wavelength of maximum excitation was 374 nm and wavelength of maximum emission was 438 nm.

reactant | 2-(p-tolyl)naphtho[1,2-b]furan | C1(=CC=C(C=C1)C1=CC2=C(O1)C1=CC=CC=C1C=C2)C | C19H14O
reactant | 3-anilinophthalide | N(C1=CC=CC=C1)C1OC(=O)C2=CC=CC=C12 | C14H11NO2
product | 2-[4-(2-carboxystyryl)phenyl]naphtho[1,2-b]furan | C(=O)(O)C1=C(C=CC2=CC=C(C=C2)C2=CC3=C(O2)C2=CC=CC=C2C=C3)C=CC=C1 | C27H18O3
